US09388140B2
4-{6-(4-Hydroxyphenoxy)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-N,2-dimethylbenzamide
To a solution of 17.2 mg (30 μmol) 4-{6-[4-(Benzyloxy)phenoxy]-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-N,2-dimethylbenzamide which was prepared according to example 47 in 0.7 mL ethanol were added 3.19 mg palladium on charcoal (10%) and the mixture was vigorously stirred under an atmosphere of hydrogen for 2 hours at 23° C. After filtration and removal of the solvent the residue was purified by chromatography to give 8.2 mg (54%) of the title compound.

reactant | 4-{6-[4-(Benzyloxy)phenoxy]-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-N,2-dimethylbenzamide | 30 μmol, 17.2 mg | C(C1=CC=CC=C1)OC1=CC=C(OC=2C=C(C3=C(N(C=N3)C3=CC(=C(C(=O)NC)C=C3)C)C2)NCCC(F)(F)F)C=C1 | C32H29F3N4O3
solvent | ethanol | 0.7 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 3.19 mg | [Pd] | Pd
product | 4-{6-(4-Hydroxyphenoxy)-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-N,2-dimethylbenzamide | 8.2 mg, 54% | OC1=CC=C(OC=2C=C(C3=C(N(C=N3)C3=CC(=C(C(=O)NC)C=C3)C)C2)NCCC(F)(F)F)C=C1 | C25H23F3N4O3
